US09403813B2
PyBOP (2.53 g, 4.85 mmol) was added to a 0° C. solution of Boc-L-azetidine-2-carboxylic acid (650 mg, 3.23 mmol) and DIPEA (1.66 mL, 9.69 mmol) in DCM (14 mL) and the rxn mixture was stirred at rt for 20 min, before N′-hydroxybenzimidamide (440 mg, 3.23 mmol) was added and stirring continued at rt for 2 h. To the rxn mixture was added H2O and the mixture extracted with DCM (2×). The combined org. extracts were washed with brine, dried (MgSO4), filtered and concentrated in vacuo to yield (S)-tert-butyl 2-((benzimidamidooxy)carbonyl)azetidine-1-carboxylate B-1-1 which was used further without purification.

reactant | PyBOP | 4.85 mmol, 2.53 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | Boc-L-azetidine-2-carboxylic acid | 3.23 mmol, 650 mg | CC(C)(C)OC(=O)N1CC[C@H]1C(=O)O | C9H15NO4
reactant | DIPEA | 9.69 mmol, 1.66 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N′-hydroxybenzimidamide | 3.23 mmol, 440 mg | ON=C(C1=CC=CC=C1)N | C7H8N2O
solvent | DCM | 14 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | (S)-tert-butyl 2-((benzimidamidooxy)carbonyl)azetidine-1-carboxylate | C(C1=CC=CC=C1)(NOC(=O)[C@H]1N(CC1)C(=O)OC(C)(C)C)=N | C16H21N3O4
